** Test bench for VCO

.include ../spice_files/vco_cir.ckt
.include ../spice_files/biasing_cct.ckt 
.include ../spice_files/inductor_model_cct.ckt


.lib /open_design_environment/foundry/pdks/skywaters/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.temp -27.00
.options tnom=-27.00

VDD VDD GND 1.80
VTuner vctrl GND 1.70

xvco vp vn vctrl ibias VDD GND vco
xind1 vp vn ind_model
xbgr ibias GND VDD BGR_Banba
**** begin user architecture code

.control
    set wr_singlescale
    set wr_vecnames
    set appendwrite

    op
    save @m.xvco.xm4.msky130_fd_pr__pfet_01v8  
    save @m.xvco.xm11.msky130_fd_pr__pfet_01v8 
    save @m.xvco.xm1.msky130_fd_pr__pfet_01v8  
    save @m.xvco.xm2.msky130_fd_pr__nfet_01v8  

    ** biasing cct **
    save @m.xbgr.xm2.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm13.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm14.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm15.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm16.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm17.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm18.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm19.msky130_fd_pr__nfet_g5v0d10v5
    save @m.xbgr.xm20.msky130_fd_pr__nfet_g5v0d10v5
    save @m.xbgr.xm21.msky130_fd_pr__nfet_g5v0d10v5
    save @m.xbgr.xm22.msky130_fd_pr__pfet_g5v0d10v5
    save @m.xbgr.xm23.msky130_fd_pr__nfet_g5v0d10v5
    save @m.xbgr.xm24.msky130_fd_pr__pfet_g5v0d10v5

    
    save all
    
    let I_tail  = @m.xvco.xm4.msky130_fd_pr__pfet_01v8[id]*1000
    let I_left  = @m.xvco.xm11.msky130_fd_pr__pfet_01v8[id]*1000
    let I_right = @m.xvco.xm1.msky130_fd_pr__pfet_01v8[id]*1000
    let gmn = @m.xvco.xm2.msky130_fd_pr__nfet_01v8[gm]*1000
    let gmp = @m.xvco.xm1.msky130_fd_pr__pfet_01v8[gm]*1000

    let tail_sat_check = @m.xvco.xm4.msky130_fd_pr__pfet_01v8[vds]-@m.xvco.xm4.msky130_fd_pr__pfet_01v8[vgs]+@m.xvco.xm4.msky130_fd_pr__pfet_01v8[vth]
    let nmos_sat_check = @m.xvco.xm2.msky130_fd_pr__nfet_01v8[vds]-@m.xvco.xm2.msky130_fd_pr__nfet_01v8[vgs]+@m.xvco.xm2.msky130_fd_pr__nfet_01v8[vth]
    let pmos_sat_check = @m.xvco.xm1.msky130_fd_pr__pfet_01v8[vds]-@m.xvco.xm1.msky130_fd_pr__pfet_01v8[vgs]+@m.xvco.xm1.msky130_fd_pr__pfet_01v8[vth]

    ** biasing cct **
    let bgr_tran_02_sat_check  = @m.xbgr.xm2.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm2.msky130_fd_pr__pfet_g5v0d10v5[vgs] +@m.xbgr.xm2.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_13_sat_check = @m.xbgr.xm13.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm13.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm13.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_14_sat_check = @m.xbgr.xm14.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm14.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm14.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_15_sat_check = @m.xbgr.xm15.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm15.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm15.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_16_sat_check = @m.xbgr.xm16.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm16.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm16.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_17_sat_check = @m.xbgr.xm17.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm17.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm17.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_18_sat_check = @m.xbgr.xm18.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm18.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm18.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_19_sat_check = @m.xbgr.xm19.msky130_fd_pr__nfet_g5v0d10v5[vds]-@m.xbgr.xm19.msky130_fd_pr__nfet_g5v0d10v5[vgs]+@m.xbgr.xm19.msky130_fd_pr__nfet_g5v0d10v5[vth]
    let bgr_tran_20_sat_check = @m.xbgr.xm20.msky130_fd_pr__nfet_g5v0d10v5[vds]-@m.xbgr.xm20.msky130_fd_pr__nfet_g5v0d10v5[vgs]+@m.xbgr.xm20.msky130_fd_pr__nfet_g5v0d10v5[vth]
    let bgr_tran_21_sat_check = @m.xbgr.xm21.msky130_fd_pr__nfet_g5v0d10v5[vds]-@m.xbgr.xm21.msky130_fd_pr__nfet_g5v0d10v5[vgs]+@m.xbgr.xm21.msky130_fd_pr__nfet_g5v0d10v5[vth]
    let bgr_tran_22_sat_check = @m.xbgr.xm22.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm22.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm22.msky130_fd_pr__pfet_g5v0d10v5[vth]
    let bgr_tran_23_sat_check = @m.xbgr.xm23.msky130_fd_pr__nfet_g5v0d10v5[vds]-@m.xbgr.xm23.msky130_fd_pr__nfet_g5v0d10v5[vgs]+@m.xbgr.xm23.msky130_fd_pr__nfet_g5v0d10v5[vth]
    let bgr_tran_24_sat_check = @m.xbgr.xm24.msky130_fd_pr__pfet_g5v0d10v5[vds]-@m.xbgr.xm24.msky130_fd_pr__pfet_g5v0d10v5[vgs]+@m.xbgr.xm24.msky130_fd_pr__pfet_g5v0d10v5[vth]
    
    print all

    tran 0.01ns 200ns
    *plot vp
    let vdiff = v(vp)-v(vn)
    let vdiff_max =  vecmax(vp-vn)
    print vdiff_max
    meas tran tperiod TRIG vdiff VAL=0.4 RISE=30 TARG vdiff VAL=0.4 RISE=31
    let freq = 1/(tperiod*1000000000)
    print freq
    

.endc

.GLOBAL GND
.GLOBAL VDD
.end